US07173045B2
In a water separator, 5-fluoroindole (5.0 g, 37 mmol.), δ-valerolactone (3.83 ml, 42 mmol.), potassium hydroxide (3.09 g, 55 mmol.) in p-cymene (120 ml) were heated to boiling, with stirring. The water separation was stopped after 80 h. For working up, water (50 ml) was added to the mixture at RT and stirring was carried out for 30 min. The phases were then separated in a separating funnel. The aqueous phase was washed with ether (3×20 ml), adjusted to pH 1 with 2M HCl and extracted with ether (5×25 ml). The combined extracts were washed with water (5×10 ml), dried, filtered and concentrated. The residue was purified by flash chromatography on silica gel (375 g) (eluant: 2700 ml of cyclohexane/EE 4:1 followed by 1500 ml of cyclohexane/EE 1:1 and 650 ml of EE). 1.9 g of 5-(5-fluoro-1H-indol-3-yl)pentanoic acid were obtained (beige solid, m.p. 86–92° C.).

reactant | water | O | H2O
reactant | 5-fluoroindole | 37 mmol, 5.0 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | δ-valerolactone | 42 mmol, 3.83 ml | C1(CCCCO1)=O | C5H8O2
reactant | potassium hydroxide | 55 mmol, 3.09 g | [OH-].[K+]
solvent | p-cymene | 120 ml | CC=1C=CC(=CC1)C(C)C | C10H14
product | 5-(5-fluoro-1H-indol-3-yl)pentanoic acid | 1.9 g | FC=1C=C2C(=CNC2=CC1)CCCCC(=O)O | C13H14FNO2
